.SUBCKT mjd112 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun 25, 98
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 12.9707
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=0 N=0.5 XTI=0.5
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=6.17138e-12 BF=126.359 NF=1.2 VAF=30
+IKF=0.0515004 ISE=1e-16 NE=1.28806 BR=0.1
+NR=1.5 VAR=128.247 IKR=1e-05 ISC=1e-16
+NC=1 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.322723 RC=1.61361 XTB=0 XTI=4 EG=1.206
+CJE=1.79736e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=4.21628e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=6.17138e-12 BF=126.359 NF=1.2 VAF=30
+IKF=0.0515004 ISE=1e-16 NE=1.28806 BR=0.1
+NR=1.5 VAR=128.247 IKR=1e-05 ISC=1e-16
+NC=1 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.322723 RC=1.61361 XTB=0 XTI=4 EG=1.206
+CJE=1.79736e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mjd112
